US07981903B2
A mixture of 2-methyl-4-(methyloxy)-5-nitroaniline HCl salt (500 mg, 2.287 mmol) and Hunig's Base (1.198 ml, 6.86 mmol) was stirred in THF (20 ml). Bromoacetyl chloride (0.211 ml, 2.52 mmol) was added and the reaction let stir at rt for 40 min. LCMS analysis indicated complete conversion to the acyl bromide so a 2M solution of dimethylamine in THF (4.6 ml, 9.15 mmol) was added and let stir at rt overnight. The reaction was diluted with EtOAc and washed with a saturated brine solution. Aqueous layers were re-extracted with EtOAc. Organics were combined and dried over sodium sulfate and filtered. Solvents were removed under reduced pressure to afford N2,N2-dimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide (0.642 mg, 2.4 mmol). ESIMS (M+H)+=268.

reactant | 2-methyl-4-(methyloxy)-5-nitroaniline HCl salt | 2.287 mmol, 500 mg | Cl.CC1=C(N)C=C(C(=C1)OC)[N+](=O)[O-]
reactant | Hunig's Base | 6.86 mmol, 1.198 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Bromoacetyl chloride | 2.52 mmol, 0.211 ml | BrCC(=O)Cl | C2H2BrClO
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 9.15 mmol, 4.6 ml | C1CCOC1 | C4H8O
product | N2,N2-dimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide | 2.4 mmol, 0.642 mg | CN(CC(=O)NC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C)C | C12H17N3O4
